US06864277B2
B) 5,6-Dichloro-3-hydroxy-3-(2-methoxyphenyl)-1,3-dihydro-2H-indol-2-one
5.57 g of 1-bromo-2-methoxybenzene are added dropwise to a suspension of 0.72 g of magnesium in 15 ml of ether containing a few crystals of iodine, the reflux being maintained once it has started. At the end of the addition, the mixture is refluxed for 2 hours. A suspension of 2.7 g of 5,6-dichloro-1H-indole-2,3-dione in 30 ml of THF is then added and the mixture is refluxed for 30 minutes. After cooling to RT, the reaction mixture is poured into a water/ice/concentrated HCl mixture and extracted with EtOAc, the organic phase is dried over Na2SO4 and the solvent is evaporated off under vacuum. The residue is slurried in hot iso ether and the precipitate formed is spin-filtered off and washed with ether. 3 g of the expected product are obtained.

reactant | 1-bromo-2-methoxybenzene | 5.57 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | 0.72 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 5,6-dichloro-1H-indole-2,3-dione | 2.7 g | ClC=1C=C2C(C(NC2=CC1Cl)=O)=O | C8H3Cl2NO2
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5,6-Dichloro-3-hydroxy-3-(2-methoxyphenyl)-1,3-dihydro-2H-indol-2-one | 3 g | ClC=1C=C2C(C(NC2=CC1Cl)=O)(C1=C(C=CC=C1)OC)O | C15H11Cl2NO3
